Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Falls, declining executive function
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo with h/o dementia who was brought in by daughter for 
concern of increased falls in the past week prior to 
presentation. He has a history of falls. He had been living at 
home alone but daughter moved in with him after finding him to 
be not doing well on his own. Falls have all been unwitnessed. 
No evidence of trauma. He does have some echymoses on his 
extremities. He has an expressive aphasia at baseline.  
.
In the ED, initial vs were: 98.8 73 136/69 26 98%  
UA with nitrates and bacteria but no leuks. Afebrile. so not 
treated. CT head negative.  Vitals on transfer 97.1 73 135/52 18 
100 ra  
.
On the floor, patient comfortable. Able to answer yes and no 
questions and denies pain.  
 
Past Medical History:
Gout
___ ___
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Exam on Admission:
Vitals: T: 96.7 BP: 131/67 P: 76 R: 18 O2: 99 RA  
General: Alert, oriented to person and not to place or time. 
Answers questions short yes no answers.  
HEENT: atraumatic, EOMI, nose non-congested, oropharynx clear  
Neck: supple, no JVD, no lymphadenopathy  
Lungs: Bilateral scattered rales, no wheezes, ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding  
Ext: No edema 2+ pulses  
Neuro: Cranial Nerves II - XII intact, stregth ___ upper 
extremeties and lower extremeties, sensation equal bilaterally 
upper and lower extremeties. Reflexes 3+ patella and achilles 
reflexes.  
Mental Status: Difficult to assess because of limited speech 
ability. Oriented to person, but not to place or time.  
.
Exam on Discharge, ___:
Vitals: T 96.6 HR 70 BP 145/73 RR 20 SaO2 97% on RA
General: sleeping but easily arousable, oriented to person but 
not to place or time. Answers questions with short yes or no 
answers. In no apparent distress.
HEENT: atraumatic, PERLL.
Neck: supple
Lungs: B/L expiratory wheezes, but difficult to assess given 
poor patient compliance.
CV:  RRR, no murmurs, rubs or gallops.
Abdomen: soft, nontender, nondistended.
Ext: Warm and well perfused, no edema, no cyanosis.
Neuro: has difficult comprehending and following all commands; 
hearing diminished b/l; strength ___ in upper and lower 
extremities.
Mental status: difficult to assess because of limited speech 
ability. 

 
Pertinent Results:
ADMISSION LABS:
___ 06:25AM BLOOD WBC-7.4 RBC-3.21* Hgb-10.6* Hct-30.9* 
MCV-96 MCH-33.1* MCHC-34.4 RDW-14.2 Plt ___
___ 06:25AM BLOOD Glucose-95 UreaN-17 Creat-0.8 Na-140 
K-4.1 Cl-107 HCO3-24 AnGap-13
___ 07:25PM BLOOD VitB12-243 Folate-8.8
___ 07:45PM BLOOD METHYLMALONIC ACID *511 H
___ 07:45PM BLOOD TSH-1.3
___ 10:25PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:25PM URINE Blood-NEG Nitrite-POS Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-SM
___ 10:25PM URINE RBC-0 ___ Bacteri-MANY Yeast-NONE 
Epi-0
.
Microbiology:
___: RPR negative
___ urine culture: mixed bacterial flora, consistent with 
skin/genital flora contamination.
.
IMAGING: 
.
CT HEAD w/o contrast ___:
IMPRESSION: Chronic atrophy and small vessel disease but no 
acute 
intracranial findings. 
.
Chest X-ray ___:
IMPRESSION: 
Mild atelectasis right lung base. Remainder of the lungs are 
clear. 
.
MRI HEAD ___:
The axial FLAIR sequence, demonstrates a thin right-sided 
subdural 
hematoma along the frontoparietal and temporal regions, 
extending inferiorly at the right occipital region, there is no 
evidence of significant mass effect or shifting of the normally 
midline structures. Additionally, there is a thin subdural 
hematoma along the left occipital region with no evidence of 
mass effect, measuring approximately 1-2 mm in thickening and 
visualized on the sagittal T1 and FLAIR images. No diffusion 
abnormalities are detected.  Multiple foci of high signal 
intensity are demonstrated in the subcortical and 
periventricular white matter on T2 and FLAIR, which are 
non-specific and may represent chronic microvascular ischemic 
disease.
 
Brief Hospital Course:
___ year old man with dementia, aphasia and inability to care for 
self at home presenting with increasing falls found to be 
bradycardic on telemetry. 
.
1. Falls: The falls have been unwitnessed, but are likely 
mechanical in nature given the patient's marked gait 
instability. The patient was found to have vitamin B12 
deficiency and was started on vitamin B12 supplementation. 
Neurology was consulted, and felt that symptoms could be 
consistent with frontotemporal dementia. MRI was performed, 
which showed a small right subdural hematoma extending from the 
frontotemporal to the parietal lobe. There was also evidence of 
microvascular disease. Given concern for subdural hematoma, 
neurosurgery was consulted but stated that surgical intervention 
was not recommended as hematoma was small. Neurology agreed with 
conservative management. 
.
2. Bradycardia/paroxysmal AV block: The patient had episodes of 
bradycardia down in ___ on telemetry but was asymptomatic. 
Cardiology was consulted and believed that bradycardia was not 
cause of syncope as patient has been asymptomatic during his 
episodes. They diagnosed him with paroxysmal AV block (Phase IV 
heart block) and recommended against pacemaker placement given 
his dementia. The EP fellow spoke with the family, who agreed 
with this assessment.
.
3. Vitamin B12 deficiency: The patient was found to have a 
low-normal level of vitamin B12 and a high methylmalonic acid 
level. He was treated with parenteral vitamin B12 while in the 
hospital and was discharged on oral vitamin B12. Vitamin B12 
levels should be monitored after discharge, and the adequatecy 
of oral supplementation should be assessed.
.
4. Subdural hematoma: diagnosed on MRI on ___. Extends from the 
right frontotemporal lobe to the right parietal lobe. Patient 
had fallen before admission, so likely this is bleeding that has 
accumulated from that fall. On initial head CT on ___, the 
bleeding may have been isodense and therefore not noticed, or it 
may have been miniscule. On MRI, hematoma was still small but 
noticeable. It is unlikely that his mental status changes are 
related to this subdural hematoma. Patient has had no acute 
changes in mental status over the course of the hospitalization. 
Neurology was consulted and felt that conservative management 
would be initial step. Neurosurgery was also consulted and 
agreed with conservative management as there was no need for 
surgical intervention and recommended follow up imaging only if 
there were acute mental status changes.
.
5. UA: Patient had UA in ED concerning for UTI with nitrates and 
bacteria but no WBC. Urine culture from the ED showed Coagulase 
negative Staphylococcus that were pan-sensitive. Patient has 
been afebrile without leukocytosis. Repeat UA on ___ showed 
nitrates and bacteria but urine culture showed mixed flora, 
consistent with skin/genital contamination. Given patient's lack 
of fever and symptoms and lack of clinical evidence, antibiotics 
were not started.

6. Anemia: Patient was anemic with hematocrit in the low 
thirties/ high ___, which remained stable throughout 
hospitalization. Iron studies were essentially normal, but the 
patient was found to have vitamin B12 deficiency. He was started 
on vitamin B12 supplements.
 
Medications on Admission:
None
 
Discharge Medications:
1. Polyethylene Glycol 3350 17 gram/dose Powder Sig: One (1) 
packet PO DAILY (Daily) as needed for constipation.
Disp:*15 packets* Refills:*0*
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
4. Vitamin B-12 1,000 mcg Tablet Sig: One (1) Tablet PO once a 
day.
Disp:*30 Tablet(s)* Refills:*2*
5. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO twice a 
day.
Disp:*120 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Dementia (with Microvascular component)
Falls
Right subdural hematoma

 
Discharge Condition:
Discharge condition: stable
Ambulatory status: unstable gait and high risk for falls, but 
ambulatory.
Mental Status: oriented to person and place (hospital) only; 
communicative but repsonds with yes/no or brief phrases; follows 
some simple commands; extremely hard of hearing at baseline and 
requires a few seconds before responding. 

 
Discharge Instructions:
You were admitted on ___ for repeated falls. While in the 
hospital, you were found to have a slow heart rate and were 
diagnosed with "phase IV heart block" or intermittent slowing of 
your heart. The treatment of this is sometimes a pacemaker, but 
given your other health problems, your family decided not to 
pursue this option. You also had an MRI of your brain that 
showed "microvascular infarcts" which are chronic changes that 
can cause dementia. You also have a small right subdural 
hematoma - or bruise to your brain - that was managed 
conservatively and will likely self-resolve. You remained in 
your usual state of health and were discharged home with 
services on ___.
.
There have been some changes to your medication list:
START Vitamin B12 1mg daily
START Docusate Sodium (Colace) 100mg Twice daily
START Polyethylene Glycol (Miralax) 17g once as needed for 
constipation
START Senna 1 tablet twice daily for constipation
START Acetaminophen  1000mg (2 pills) twice daily
 
Followup Instructions:
___